US04736056
In a manner similar to the procedure described in Example B, 31.0 grams (119.0 mmol) of ethyl 3-[(4-chloro-2-fluorophenyl)amino]-3-oxopropanoate, 41.4 grams (300.0 mmol) of anhydrous potassium carbonate, 100 milliliters anhydrous dimethylformamide and 10.4 milliliters (120.0 mmol) of 1,2-dibromoethane were reacted for a period of 3 days to give 20.6 grams (72.0 mmol) of ethyl 1-(4-chloro-2-fluorophenylaminocarbonyl)cyclopropanecarboxylate as a colorless solid having a melting point of 94.0° C.-95.5° C. The total yield was 61 percent. NMR analysis of the product indicated the following:

reactant | ethyl 3-[(4-chloro-2-fluorophenyl)amino]-3-oxopropanoate | 119.0 mmol, 31.0 grams | ClC1=CC(=C(C=C1)NC(CC(=O)OCC)=O)F | C11H11ClFNO3
reactant | potassium carbonate | 300.0 mmol, 41.4 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 120.0 mmol, 10.4 milliliters | BrCCBr | C2H4Br2
solvent | dimethylformamide | 100 milliliters | CN(C=O)C | C3H7NO
product | ethyl 1-(4-chloro-2-fluorophenylaminocarbonyl)cyclopropanecarboxylate | 72.0 mmol, 20.6 grams, yield was 61 percent | ClC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)OCC)F | C13H13ClFNO3
